US04855323
486.7 g (3.0 mol) of 2-cyclopentylphenol, 472 g (3.9 mol) of allyl bromide and 830 g (6.0 mol) of potassium carbonate are heated under reflux in 2.5 l of acetone while stirring vigorously for 26 h. The cooled reaction mixture is filtered, and the filtrate is concentrated in vacuo. The residue is taken up in petroleum ether, and the solution is washed three times with 2N sodium hydroxide solution. The organic phase is dried over magnesium sulfate and concentrated in vacuo, and the residue is finally distilled in vacuo. 593 g (97% of theory) of 2-cyclopentylphenyl allyl ether are obtained.

reactant | 2-cyclopentylphenol | 3.0 mol, 486.7 g | C1(CCCC1)C1=C(C=CC=C1)O | C11H14O
reactant | allyl bromide | 3.9 mol, 472 g | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 6.0 mol, 830 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 2.5 l | CC(=O)C | C3H6O
product | 2-cyclopentylphenyl allyl ether | 593 g, 97% | C(C=C)OC1=C(C=CC=C1)C1CCCC1 | C14H18O
